US07687665B2
2-(4-chlorophenyl)-N-Cyclohexyl-2-methylpropanamide
BOP (200 μL, 0.25 M in DMF, 50 μmol) was added to a solution of 2-(4-chlorophenyl)-2-methylpropanoic acid (200 μL, 0.25 M in DMF, 50 μmol) at RT, followed by addition of N-methyl morpholine (40 μL). The mixture was stirred at RT for 15 min, then a solution of cyclohexylamine in DMF (200 μL, 0.25 M in DMF, 50 μmol) was added. The resulting mixture was stirred at RT for 3 h, and then was adjusted by TFA to PH=2.0, and diluted with DMSO (1100 μL). The resulting solution was purified by prep.-HPLC to afford the desired product 2-(4-chlorophenyl)-N-cyclohexyl-2-methylpropanamide. LCMS: (M+H)+=280.0/282.0.

reactant | BOP | 50 μmol, 0.25 M, 200 μL | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 2-(4-chlorophenyl)-2-methylpropanoic acid | 50 μmol, 0.25 M, 200 μL | ClC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11ClO2
reactant | N-methyl morpholine | 40 μL | CN1CCOCC1 | C5H11NO
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | DMF | 50 μmol, 0.25 M, 200 μL | CN(C)C=O | C3H7NO
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | 1100 μL | CS(=O)C | C2H6OS
product | 2-(4-chlorophenyl)-N-cyclohexyl-2-methylpropanamide | ClC1=CC=C(C=C1)C(C(=O)NC1CCCCC1)(C)C | C16H22ClNO
